Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / milk
 
Attending: ___.
 
Chief Complaint:
altered mental status 
 
Major Surgical or Invasive Procedure:
___ Paracentesis
___ ERCP

 
History of Present Illness:
___ with recently diagnosed metastatic pancreatic cancer who 
presents from clinic for fever, tachycardia and AMS. She 
describes waking up to eat some clementines last night (in her 
effort to improve her nutrition/get stronger), but they made her 
feel sick to her stomach, and she proceeded to feel very gassy 
and fatigued. Per her son (whom she lives with), she was 
mentally clear as late as 6:30 AM when he saw her; however, upon 
arriving to her scheduled clinic appointment for a port needle 
exchange, she was noted to be confused with word-finding 
difficulties, tachycardic to 130, and fever to 101.7. She was 
therefore sent to the ED.   

Notably, the patient was diagnosed earlier this year with stage 
IV pancreatic cancer, for which she had 3 previous admissions to 
___ this year (___). She 
had just begun her second cycle of FOLFOX chemotherapy ___. She 
has a primary tumor of the pancreatic tail, metastatic to the 
porta hepatis (caused CBD compression s/p metal stent ___, as 
well as partial PVT s/p rivaroxaban started ___, peritoneum 
(causing malignant ascites s/p intermittent paras), & lungs (c/b 
moderate L & small R pleural effusions). AP, ALT, and AST had 
been in the several hundreds range (although normal Tbili) but 
all normalized s/p CBD stenting, and remained normal as recently 
as ___. 

In the ED,  
- Initial Vitals: T 100.8, HR 123, BP 139/68, RR 28, SpO2 93% RA 

- Exam: Notable for tachypnea, diminished breath sounds on the 
L, and A&Ox1 
- Course: developed 3L NC O2 requirement, fever to 100.8, 
hypotension to ___. Tachycardia mildly improved with fluids 
(see below)        
- Interventions: vancomycin, Zosyn, 1L NS, 1L LR 

On arrival to the floor, patient is well-oriented and feeling 
much better. Still requiring 3L O2 NC. BP and HR moderately 
improved.  

 
Past Medical History:
Pancreatic CA, as above
PVT on rivaroxaban
HTN
 
Social History:
___
Family History:
FamHx:
- Father with colon cancer in his ___
- Sister with breast cancer in her ___

 
Physical Exam:
Admission Physical Examination:
===============================
VS: Reviewed in Metavision 
Otherwise notable for elderly woman reclining in chair,
alert/interactive, breathing comfortably on room air, diminished
lung sounds in L posterior base, abd soft/NT/ND, legs warm
without edema 

Discharge Physical Examination:
===============================
24 HR Data (last updated ___ @ 823)
    Temp: 97.4 (Tm 98.3), BP: 117/75 (101-117/64-78), HR: 77
(67-106), RR: 18 (___), O2 sat: 98% (95-99), O2 delivery: RA
Fluid Balance (last updated ___ @ 951)
  Last 8 hours  Total cumulative 154ml
    IN: Total 454ml, PO Amt 340ml, IV Amt Infused 114ml
    OUT:  Total 300ml, Urine Amt 300ml
  Last 24 hours  Total cumulative 447.1ml
    IN: Total 1397.1ml, PO Amt 640ml, IV Amt Infused 757.1ml
    OUT:  Total 950ml, Urine Amt 950ml

GENERAL: Tired, thin, NAD
EYES: +icterus
HEENT: Clear OP with dry membranes, cord over the right upper
chest/neck above port site. No thrush
NECK: supple
___: RRR no MRG
RESP: no increased WOB, no wheezing, rhonchi or crackles
GI: soft, NTND no rebound or guarding
EXT: warm, no edema
SKIN: dry, no obvious rashes
NEURO: CN II-XII intact
ACCESS: POC with palpable cord as above
 
Pertinent Results:
Admission Labs:
===============
___ 06:47PM   ___ PO2-131* PCO2-32* PH-7.51* TOTAL 
CO2-26 BASE XS-3
___ 06:47PM   LACTATE-2.1*
___ 03:25PM URINE  HOURS-RANDOM
___ 03:25PM URINE  UHOLD-HOLD
___ 03:25PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:25PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-MOD* UROBILNGN-4* PH-6.5 
LEUK-NEG
___ 03:25PM URINE  RBC-<1 WBC-1 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 11:40AM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 11:20AM   ___ PO2-41* PCO2-34* PH-7.49* TOTAL 
CO2-27 BASE XS-2
___ 11:20AM   LACTATE-2.9* CREAT-0.8
___ 11:20AM   estGFR-Using this
___ 11:13AM   GLUCOSE-229* UREA N-16 CREAT-0.9 SODIUM-132* 
POTASSIUM-4.7 CHLORIDE-95* TOTAL CO2-23 ANION GAP-14
___ 11:13AM   ALT(SGPT)-210* AST(SGOT)-304* LD(LDH)-247 ALK 
PHOS-396* TOT BILI-6.0*
___ 11:13AM   ALBUMIN-2.7* CALCIUM-8.1* PHOSPHATE-2.4* 
MAGNESIUM-1.8 URIC ACID-5.5
___ 11:13AM   TSH-1.2
___ 11:13AM   WBC-0.3* RBC-3.88* HGB-11.1* HCT-34.3 MCV-88 
MCH-28.6 MCHC-32.4 RDW-18.6* RDWSD-58.8*
___ 11:13AM   NEUTS-80* LYMPHS-16* MONOS-4* EOS-0* BASOS-0 
NUC RBCS-7.1* AbsNeut-0.24* AbsLymp-0.05* AbsMono-0.01* 
AbsEos-0.00* AbsBaso-0.00*
___ 11:13AM   ANISOCYT-1+* RBCM-SLIDE REVI
___ 11:13AM   PLT SMR-NORMAL PLT COUNT-282
___ 11:13AM   ___ PTT-25.1 ___
___ 10:15AM   UREA N-15 CREAT-0.8 SODIUM-129* POTASSIUM-4.8 
CHLORIDE-92* TOTAL CO2-24 ANION GAP-13
___ 11:13AM   PLT SMR-NORMAL PLT COUNT-282
___ 11:13AM   ___ PTT-25.1 ___
___ 10:15AM   UREA N-15 CREAT-0.8 SODIUM-129* POTASSIUM-4.8 
CHLORIDE-92* TOTAL CO2-24 ANION GAP-13
___ 10:15AM   ALT(SGPT)-224* AST(SGOT)-320* ALK PHOS-437* 
TOT BILI-6.0*
___ 10:15AM   ALBUMIN-2.9* PHOSPHATE-2.8 MAGNESIUM-2.0
___ 10:15AM   WBC-0.4* RBC-4.09 HGB-11.7 HCT-35.5 MCV-87 
MCH-28.6 MCHC-33.0 RDW-18.6* RDWSD-57.8*
___ 10:15AM   AbsNeut-0.34*
___ 10:15AM   PLT COUNT-381

Pertinent Studies:
==================
CXR ___
Final Report 
EXAMINATION:  CHEST (PORTABLE AP) 
INDICATION:  History: ___ with tachycardia, ams.  Evaluation for 
pna. 
TECHNIQUE:  Chest AP portable upright 
COMPARISON:  Comparison to prior chest radiograph from ___. 
FINDINGS:  
Right chest wall Port-A-Cath is again demonstrated, with tip 
extending to the low SVC.  Cardiomediastinal silhouette is 
within normal limits.  Interval increase in moderate sized left 
pleural effusion with adjacent left lower lobe consolidation, 
likely representing a combination of effusion and atelectasis, 
however infection cannot be excluded in the appropriate clinical 
setting.  
Right lung field is largely clear without evidence of focal 
consolidation.  No pneumothorax is seen. 
  
IMPRESSION:  
Interval increase in moderate sized left pleural effusion with 
adjacent left lower lobe consolidation, likely representing a 
combination of effusion and atelectasis, however infection 
cannot be excluded in the appropriate clinical setting. 
 
___ RUQUS 
Final Report 
EXAMINATION:  CT HEAD W/O CONTRAST Q111 CT HEAD 
INDICATION:  History: ___ with acute changes in mental status.  
Evaluation for intracranial hemorrhage. 
  
TECHNIQUE:  Contiguous axial images of the brain were obtained 
without 
contrast. Coronal and sagittal reformations as well as bone 
algorithm 
reconstructions were provided and reviewed. 
  
DOSE:  Acquisition sequence: 
   1) Sequenced Acquisition 16.0 s, 16.0 cm; CTDIvol = 50.2 mGy 
(Head) DLP = 802.7 mGy-cm. Total DLP (Head) = 803 mGy-cm. 
  
COMPARISON:  Noncontrast head CT ___. 
FINDINGS:  
There is no evidence of intracranial hemorrhage, acute large 
territory 
infarction, edema,or mass.  There is mild prominence of the 
ventricles and 
sulci suggestive of involutional changes.  Mild periventricular 
and 
subcortical hypodensities are nonspecific, though likely sequela 
of chronic small vessel ischemic disease.  Atherosclerotic 
vascular calcifications are noted of bilateral vertebral and 
cavernous portions of internal carotid arteries. 
  
There is no evidence of fracture.  Mild mucosal thickening of 
the right 
maxillary sinus.  The visualized portion of the mastoid air 
cells, and middle ear cavities are clear.  The visualized 
portion of the orbits suggest bilateral drusen. 
  
IMPRESSION: 
1. No acute intracranial abnormality. Please note MRI of the 
brain is more 
sensitive for the detection of acute infarct. 
2. Atrophy, probable small vessel ischemic changes, and 
atherosclerotic 
vascular disease as described. 
3. Minimal paranasal sinus disease as described. 
 
___ CT abd/pelv
Final Report 
EXAMINATION:  CT ABD AND PELVIS WITH CONTRAST 
  
INDICATION:  ___ with stage IV pancreatic carcinoma c/b 
malignant effusions, 
malignant ascites, PVT on rivaroxaban, and CBD compression s/p 
metal stent 
(___) who presents on C1D3 of her FOLFOX chemotherapy regimen 
with fever, 
tachycardia, hypoxia, hypotension, confusion, ___, and 
hyperlactatemia c/f 
septic shock of unclear infectious source. Eval for 
intra-abdominal etiology 
to explain elevated LFTs/bili.// eval of hepatic parenchyema, 
cause of 
transaminitis/hyperbilirubinemia 
  
TECHNIQUE:  Single phase contrast: MDCT axial images were 
acquired through the 
abdomen and pelvis following intravenous contrast 
administration. 
Oral contrast was administered. 
Coronal and sagittal reformations were performed and reviewed on 
PACS. 
  
DOSE:  Acquisition sequence: 
   1) Sequenced Acquisition 0.5 s, 0.2 cm; CTDIvol = 7.3 mGy 
(Body) DLP = 1.5 
mGy-cm. 
   2) Sequenced Acquisition 0.5 s, 0.2 cm; CTDIvol = 7.3 mGy 
(Body) DLP = 1.5 
mGy-cm. 
   3) Stationary Acquisition 13.2 s, 0.2 cm; CTDIvol = 219.6 mGy 
(Body) DLP = 
43.9 mGy-cm. 
   4) Spiral Acquisition 12.1 s, 64.2 cm; CTDIvol = 11.7 mGy 
(Body) DLP = 
751.9 mGy-cm. 
 Total DLP (Body) = 799 mGy-cm. 
  
COMPARISON:  Multiple prior CT abdomen and pelvis examinations 
most recent 
dated ___. MRCP dated ___. 
  
FINDINGS:  
  
LOWER CHEST: There is interval increase in extent of large left 
pleural 
effusion with associated complete atelectasis of the left lower 
lobe.  There is subsequent atelectasis of the right lower lobe. 
  
ABDOMEN: 
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions.  No definite focal liver 
lesion noted. The previously reported mass at the hepatic hilum 
on MR ___ is not clearly seen on this CT exam but 
appears smaller. There is haziness at the hepatic hilum. 
  
There is interval placement of CBD stent.  The intrahepatic 
biliary ductal 
dilatation has slightly increased in extent from prior exam for 
which stent malfunction could be considered. The gallbladder is 
normal. 
  
PANCREAS: The pancreatic tail mass has slightly decreased in 
size from prior exam measuring 2.5 cm largest axial dimension, 
previously 3.1 cm (measured on MR 4.8 cm).  There remains 
extension and mass effect on the splenic vein similar to prior 
exam.  The hazy soft tissue stranding seen posterior to the 
pancreatic body (series 5, image 69) with mass-effect and 
narrowing of the splenic vein is similar to prior MRI.  The 
pancreatic head is normal. 
  
There is marked omental nodularity compatible with metastatic 
disease similar to prior exam. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  
There is no evidence of focal renal lesions or hydronephrosis.  
There is no perinephric abnormality. 
  
GASTROINTESTINAL: The bowel is normal in caliber with no 
evidence of 
obstruction. 
  
There is moderate volume ascites, unchanged from prior exam. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 

  
REPRODUCTIVE ORGANS: There is fibroid uterus. Right ovarian 
cystic mass has slightly increased in size from prior exam 
measuring 4.0 cm in largest axial dimension, previously 3.3 cm. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy. 
  
VASCULAR: In addition to above-mentioned finding, there is no 
abdominal aortic aneurysm.  Mild atherosclerotic disease is 
noted. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture.  Degenerative changes are seen in the spine. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION: 
1. Interval placement of CBD stent with slight increase in 
extent of 
intrahepatic biliary ductal dilatation for which stent 
malfunction could be considered. 
2. Interval decrease in size of pancreatic tail mass with 
persistent mass 
effect on the splenic vein. 
3. Stable hazy soft tissue stranding posterior to the pancreatic 
body causing 
unchanged splenic vein narrowing. 
4. Stable omental metastasis and moderate volume of malignant 
ascites. 
5. Interval increase in extent of large left pleural effusion 
with associated complete atelectasis of the left lower lobe. 
6. Interval increase in size of right ovarian cystic mass 
measuring 4.0 cm, previously 3.3 cm. 

CT Chest w/ contrast ___
============================
Final Report 
EXAMINATION:  CT CHEST W/CONTRAST ___ 
INDICATION:  ___ with stage IV pancreatic carcinoma c/b 
malignant effusions, malignant ascites, PVT on rivaroxaban, and 
CBD compression s/p metal stent (___) who presents on C1D3 of 
her FOLFOX chemotherapy regimen with fever, tachycardia, 
hypoxia, hypotension, confusion, ___, and hyperlactatemia c/f 
septic shock of unclear infectious source. Eval for 
intra-abdominal etiology to explain elevated LFTs/bili.// eval 
of hepatic parenchyema, cause of 
transaminitis/hyperbilirubinemia 
  
TECHNIQUE:   Multi-detector helical scanning of the chest, 
coordinated with intravenous infusion of nonionic, iodinated 
contrast agent, following oral administration of contrast agent 
for selected abdominal studies, and/or followed by scanning of 
the neck, was reconstructed as contiguous 5 mm and 1.0 or 1.25 
mm thick axial, 2.5 or 5 mm thick coronal and parasagittal, and 
8 mm MIP axial images. Concurrent scanning of the abdomen and 
pelvis and/or neck will be reported separately. All images of 
the chest were reviewed. 
  
DOSE:  Acquisition sequence: 
   1) Sequenced Acquisition 0.5 s, 0.2 cm; CTDIvol = 7.3 mGy 
(Body) DLP = 1.5 
mGy-cm. 
   2) Sequenced Acquisition 0.5 s, 0.2 cm; CTDIvol = 7.3 mGy 
(Body) DLP = 1.5 
mGy-cm. 
   3) Stationary Acquisition 13.2 s, 0.2 cm; CTDIvol = 219.6 mGy 
(Body) DLP = 
43.9 mGy-cm. 
   4) Spiral Acquisition 12.1 s, 64.2 cm; CTDIvol = 11.7 mGy 
(Body) DLP = 
751.9 mGy-cm. 
 Total DLP (Body) = 799 mGy-cm. 
** Note: This radiation dose report was copied from CLIP 
___ (CT ABD AND PELVIS WITH CONTRAST) 
  
COMPARISON:  Chest CT ___ 
  
FINDINGS:  
CHEST PERIMETER: Irregularly shaped low density region in the 
mildly enlarged left thyroid lobe is slightly larger today than 
in ___ and should be evaluated by ultrasound if not 
recently performed. 
  
7 mm left supraclavicular lymph nodes, 05:11, 12, are new.  
Right 
supraclavicular and axillary lymph nodes are not enlarged. 
  
Breast evaluation is reserved exclusively for mammography.  No 
soft tissue 
abnormalities elsewhere in the chest wall.  Findings below the 
diaphragm will be reported separately. 
  
CARDIO-MEDIASTINUM: Esophagus is unremarkable.  Atherosclerotic 
calcification is mild in head and neck vessels and at least left 
anterior descending coronary artery.  Aorta and pulmonary 
arteries are normal size, aortic valve is not calcified.  
Pericardium is physiologic. 
  
This study is not designed for definitive evaluation of 
pulmonary circulation but clearly shows a nearly 0 clues of 
thrombus centrally located in the are gin of the posterior basal 
segmental artery, right lower lobe, 6:191-200, which should be 
considered acute. 
  
There is also central thrombosis in the left subclavian and 
brachiocephalic veins, 6:87-124, with no clear extension into 
the SVC.  Central venous catheter currently extends from the 
right internal jugular to the superior cavoatrial junction with 
no indication of associated thrombosis. 
  
Pericardium is physiologic. 
 
THORACIC LYMPH NODES: No lymph nodes in the chest are 
pathologically enlarged. 
5 mm prevascular diaphragmatic node, 05:48, was slightly smaller 
in ___. 
  
LUNGS, AIRWAYS, PLEURAE: Focal lung lesions as follows: 
Aside from moderate subpleural atelectasis, lower lobe, right 
lung is clear. 
  
No appreciable right pleural effusion. 
  
Moderate to large dependent nonhemorrhagic left pleural 
effusion, 5 ___, is 
larger today than in ___ and largely responsible for 
collapse of the left lower lobe and some of the lingula, also 
more severe.  Pleural fluid is isointense with ascites and could 
be secondary to it.  There is no definite pleural nodulation. 
  
Left bronchial tree is patent centrally, collapsed peripherally 
in the regions of atelectasis, suggesting chronicity. 
  
CHEST CAGE: Although there are no bone lesions in the imaged 
chest cage 
suspicious for malignancy or infection, it should be noted that 
radionuclide 
bone and FDG PET scanning are more sensitive in detecting early 
osseous 
pathology than chest CT scanning. 
  
IMPRESSION:  
Moderate to large left pleural effusion has increased 
substantially since 
___ and ___ responsible for more severe atelectasis, 
collapsed lower left lower lobe and lingula. 

ERCP ___:
============
Impression: Sludge extraction, cholangiogram not performed due 
to neutropenia. No pus noted but given neutropenia this does not 
rule out cholangitis. 
  
DISCHARGE

___ 05:30AM BLOOD WBC-11.5* RBC-3.19* Hgb-9.1* Hct-28.2* 
MCV-88 MCH-28.5 MCHC-32.3 RDW-19.7* RDWSD-62.3* Plt Ct-74*
___ 05:30AM BLOOD Neuts-94* Lymphs-2* Monos-3* Eos-0* 
___ Metas-1* AbsNeut-10.81* AbsLymp-0.23* AbsMono-0.35 
AbsEos-0.00* AbsBaso-0.00*
___ 05:30AM BLOOD Glucose-87 UreaN-7 Creat-0.7 Na-138 K-3.6 
Cl-103 HCO3-24 AnGap-11
___ 05:30AM BLOOD ALT-41* AST-16 CK(CPK)-<7* AlkPhos-201* 
TotBili-1.8*
 
Brief Hospital Course:
___ with metastatic pancreatic CA c/b pleural effusions 
andascites on FOLFOX, biliary obstruction s/p metal stent 
(___), PVT on rivaroxaban, who presented on C1D3 with 
neutropenic fever, sepsis, transaminitis, found to have high
grade polymicrobial bacteremia, now s/p ERCP w/ sludge removal.

#POLYMICROBIAL BACTEREMIA
#CHOLANGITIS
#SEPSIS, RESOLVED
#NEUTROPENIC FEVERS:
Patient was admitted to the FICU with sepsis and transaminitis 
concerning for cholangitis. She was started on 
vanc/cefepime/flagyl on ___ and underwent ERCP on ___ which 
found significant biliary sludge. Following her ERCP, the 
patient was stable and she was called out of the FICU to the 
floor. Where she remained stable with downtrending LFTs and 
resolution of her sepsis. Her blood cultures grew VRE (sensitive 
to ampicillin) and Citrobacter. She was therefore transitioned 
to Zosyn monotherapy on ___. 

The patient was discharged on daptomycin 450mg IV q24H and 
ciprofloxacin 500mg q12H PO. Patient will not need follow up 
with ID OPAT as duration of treatment will be 2 weeks. Last day 
of treatment ___.

#SUBSEGMENTAL PE
#LEFT SUBCLAVIAN DVT
#PVT:
Patient was treated with rivaroxaban for her PVT. However, she 
had had to hold it for 2 days prior to her frequent outpatient 
paracentesis. Upon presentation she was found to have a 
subclavian DVT and sub segmental PEs. She was initially started 
on a heparin gtt, however, after discussion with her oncologist, 
this was not thought to be true treatment failure given her 
frequent need to hold her anticoagulation. After discussion with 
___ it was decided that the patient can hold her medication the 
day prior and morning of her procedure. It was therefore decided 
to continue her rivaroxaban with re-imaging to be planed as an 
outpatient. If her clot burden seems to increase, then she will 
be transitioned to lovenox. 

Given obvious biliary source and culture data, subclavian DVT 
unlikely to be source of prior sepsis.

#MAlIGNANT ASCITES: Underwent ___ guided para on ___ with removal 
of 4.5L. Procedure was tolerated well and she received 25g of 
25% albumin afterward. Cell counts and gram stain not c/w SBP.

#MALIGNANT PLEURAL EFFUSION (LEFT SIDED):
Enlarged from baseline. No increased WOB or hypoxia. Given 
stability and obvious biliary source of sepsis, there was no 
need to investigate with thoracentesis as cause of infection. 

#OROPHARYNGEAL CANDIDIASIS:
-Nystatin PO QID (day ___

#THROMBOCYTOPENIA: entering nadir from chemo

#METASTATIC PANCREATIC CANCER: Currently treated with FOLFOX. 
Will follow up with oncologist after discharge on ___

>30 minutes were spent coordinating care with outpatient 
providers, preparing paperwork and prescriptions

TRANSITIONAL ISSUES:
Please check CBC w diff, BUN/Cr and CPK at follow up oncology 
visit on ___. Pt will need q1week labs while on daptomycin. 
Last day of treatment ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pantoprazole 40 mg PO Q12H 
2. Rivaroxaban 20 mg PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 
4. Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
5. Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO BID 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*28 Tablet Refills:*0 
2.  Daptomycin 450 mg IV Q24H 
RX *daptomycin 500 mg 450 mg IV q24h Disp #*30 Vial Refills:*0 
3.  Nystatin Oral Suspension 5 mL PO QID 
RX *nystatin 100,000 unit/mL 5 ml by mouth four times a day 
Refills:*0 
4.  Pancrelipase 5000 1 CAP PO TID W/MEALS 
RX *lipase-protease-amylase [Creon] 3,000 unit-9,500 unit-15,000 
unit 1 tab-cap by mouth tid/meals Disp #*40 Capsule Refills:*0 
5.  Senna 17.2 mg PO BID 
RX *sennosides 8.6 mg 2 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
6.  Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
 
7.  Pantoprazole 40 mg PO Q12H  
8.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line  
9.  Rivaroxaban 20 mg PO DAILY  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
#POLYMICROBIAL BACTEREMIA
#CHOLANGITIS
#SEPSIS
#NEUTROPENIC FEVERS
#PULMONARY EMBOLISM
#PORTAL VEIN THROMBOSIS
#LEFT SUBCLAVIAN DEEP VEIN THROMBOSIS
MAlIGNANT ASCITES
MALIGNANT PLEURAL EFFUSION 
METASTATIC PANCREATIC CANCER

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital to have your port evaluated. You were 
found to have fevers and an infection of your biliary system. 
You underwent an ERCP to clear this infection and were started 
on IV antibiotics. You also had fluid drained from your abdomen 
which improved your symptoms of abdominal bloating. In addition, 
you were found to have a clot around your port which also caused 
blood clots in your lungs. After talking to your oncologist, 
this was thought to be due to you having you stop your 
rivaroxaban multiple times before paracentesis rather than the 
medication not working properly.

Therefore, prior to you getting an outpatient paracentesis, 
please hold it on the day before and the day of the procedure.

We are discharging you with an IV antibiotic called daptomycin 
in addition to an oral antibiotic called ciprofloxacin. It is 
very important that you take these medications are prescribed.

We wish you the best!

Your ___ Care team
 
Followup Instructions:
___